US07759518B2
3-Chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)propane-1-sulfonamide
According to the general procedure A, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with 3-chloropropane-1-sulfonyl chloride to obtain the desired product. 1H NMR (500 MHz, CDCl3): δ=7.39-7.38 (d, 1H), 7.35-7.34 (m, 1H), 7.27-7.26 (m, 1H), 7.10-7.0 (q, 1H), 6.63 (s, 1H, br), 6.15-6.11 (q, 1H), 5.60 (s, 1H, br), 3.60-3.56 (t, 2H), 3.22-3.20 (m, 2H), 2.22-2.16 (m, 2H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 3-chloropropane-1-sulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
product | 3-Chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)propane-1-sulfonamide | ClCCCS(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C15H13ClF3IN2O2S
